US04895600
(Silicon Amino Phosphonate II)
To a 500 ml three neck flask fitted with a reflux condenser and dropping funnel is added 55.6 g (0.25 mole)(of N-2-aminoethyl-3-aminopropyltrimethoxysilane. To this is added slowly a mixture of 70% phosphorous acid (0.5 mole), deionized water, and concentrated hydrochloric acid (60 grams). The mixture is heated to gentle reflux and 37% aqueous formaldehyde (0.50 mole) is added dropwise during one hour. The mixture is heated for an additional hour to complete the reaction.

reactant | N-2-aminoethyl-3-aminopropyltrimethoxysilane | NCCNCCC[Si](OC)(OC)OC | C8H22N2O3Si
reactant | phosphorous acid | 0.5 mole | P(O)(O)O | H3O3P
reactant | hydrochloric acid | 60 grams | Cl | ClH
reactant | formaldehyde | 0.50 mole | C=O | CH2O
solvent | water | O | H2O
product | Silicon Amino Phosphonate | P(ON)([O-])=O.[Si+4].NOP([O-])=O.NOP([O-])=O.NOP([O-])=O | InChI=1S/4H4NO3P.Si/c4*1-4-5(2)3;/h4*5H,1H2,(H,2,3);/q;;;;+4/p-4
